US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-2-morpholin-4-yl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#130)
(3S)-3-(Dimethylamino)pyrrolidine (55 μl, 0.435 mmol) and triethylamine (70 μl, 0.502 mmol) were added to a dimethyl sulfoxide (3 ml) solution of 7-fluoro-5-methyl-2-morpholin-4-yl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-283) (113 mg, 0.335 mmol), followed by stirring in an oil bath at 150° C. for 2 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in chloroform and washed with saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, the residue obtained by concentration was preparative TLC (eluent, chloroform:methanol=10:1, v/v), and the obtained eluate was recrystallized from hot ethanol to obtain the entitled compound (33.0 mg, 22%) as a white solid.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 0.435 mmol, 55 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 0.502 mmol, 70 μl | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | 7-fluoro-5-methyl-2-morpholin-4-yl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.335 mmol, 113 mg | FC=1C(=C(C(=C2N=C(OC21)N2CCOCC2)C#N)C)C2=CC=CC=C2 | C19H16FN3O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-2-morpholin-4-yl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 33.0 mg, 22% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)N2CCOCC2)C#N)C)C2=CC=CC=C2)C | C25H29N5O2
